US04661495
(a) Synthesis of 5-benzyloxycarbonylamino-8-guanidino-4-oxo-2-phenylmethyloctanoic acid
Arphamenine A hydrochloride (150 mg), sodium hydrogen carbonate (176 mg) and S-benzyloxycarbonyl-4,6-dimethyl-2-mercaptopyrimidine (230 mg) were dissolved in 20 ml of dioxane-water (1:1), and the resultant solution was stirred at room temperature overnight. After the reaction was completed, the reaction solution was adjusted to pH 2.0 with 1N hydrochloric acid, followed by extraction with n-butanol. The extract in n-butanol was washed with water and concentrated to dryness. The residue obtained was chromatographed in a column of silica-gel (20 g) by eluting with a mixture of chloroform and methanol, while changing the ratio of chloroform to methanol in said mixture gradiently from 15:1 to 2:1. The desired reaction product was eluted out in fraction Nos. 60 to 120 [in chloroformmethanol (2:1)] of the eluate. These fractions were combined together and concentrated to dryness to afford 116 mg of the titled compound as a colorless powder. This product gave a value of m/z 455 (MH+) in mass spectrometry.

reactant | Arphamenine A hydrochloride | 150 mg | C1=CC=C(C=C1)C[C@H](CC(=O)[C@H](CCCN=C(N)N)N)C(=O)O.Cl
reactant | sodium hydrogen carbonate | 176 mg | C(O)([O-])=O.[Na+]
reactant | S-benzyloxycarbonyl-4,6-dimethyl-2-mercaptopyrimidine | 230 mg | C(C1=CC=CC=C1)OC(=O)SC1=NC(=CC(=N1)C)C | C14H14N2O2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dioxane water | 20 ml | O1CCOCC1.O
product | 5-benzyloxycarbonylamino-8-guanidino-4-oxo-2-phenylmethyloctanoic acid | 116 mg | C(C1=CC=CC=C1)OC(=O)NC(C(CC(C(=O)O)CC1=CC=CC=C1)=O)CCCNC(=N)N | C24H30N4O5
